US06527959B1
Preparation of 4-methacrylamidosalicylic acid (4-MASA)
In a 5 L flask, 250 g of 4-aminosalicylic acid (Aldrich Chemical Co., Milwaukee, Wis.) is dissolved in 2.0 L of acetone under a nitrogen atmosphere with the aid of mechanical stirring. To this is added, at room temperature, 375 g of methacrylic anhydride (Aldrich) dropwise over 1 hour. After stirring for 16 hours, the volume of acetone is reduced to 1.0 L by vacuum distillation. The crude solid product which precipitates from solution is collected by vacuum filtration. The product is washed with 500 mL of 5:1 water:methanol and purified further by stirring the solid for 30 minutes in 1 L of 5:1 water:methanol. The solid is isolated by vacuum filtration and air-dried overnight to yield 295 g of a tan solid. This product is used without further purification.

reactant | methacrylic anhydride | 375 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | 4-aminosalicylic acid | 250 g | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
solvent | acetone | 2.0 L | CC(=O)C | C3H6O
product | 4-methacrylamidosalicylic acid | 295 g | C(C(=C)C)(=O)NC=1C=C(C(C(=O)O)=CC1)O | C11H11NO4
